Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea with vomiting
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history notable for chronic back pain with compression fracture
on NSAIDs, insomnia, anxiety, and osteoporosis who presents for
evaluation of 3 days of nausea and vomiting.  She reports that
she was in her usual state of health until approximately 3 days
prior to presentation.  She reports at that time she developed
abdominal pain and nausea with vomiting.  She reports that she 
is
vomiting at least ___ times a day and likely more.  She reports
that she is having difficulty keeping anything down.  She 
reports
that she lives with her sister who is not sick.  She denies any
new contacts or dietary changes.  She reports that she is
continuing to have nausea and vomiting with epigastric burning. 
She reports that the epigastric burning is been ongoing for some
time it is significant worsened recently.  Where she is to keep
difficulty keeping anything down including her medications. 
Ultimately she presented on the day of admission to urgent care
where she was evaluated and noted to be dehydrated with an
elevated white blood cell count.  She was transferred to the 
___ emergency department for further
evaluation.

In the emergency department she was seen and evaluated.  Her
initial vital signs were afebrile, heart rate of 111, blood
pressure 148/85, respiratory rate 18, oxygenation 97% on room
air.  Her labs were notable for a fall and her H&H from 
11.1/33.6
to 9.9/30.9 while in the emergency department.  GI was consulted
who recommended clear liquid diet, n.p.o. at midnight in case 
her
H&H falls, a twice daily IV PPI, maintaining active type and
screen and trending her H&H in the event that she is having a GI
bleed.  She was admitted to the medical service for further
evaluation and management

On arrival to the floor the patient reports that she has not had
a bowel movement in at least several days.  She will does report
when she is vomiting that her vomit is slightly darker but that
was already relatively new occurrence.  She reports that she
feels dehydrated at the current time.  She also reports that she
has been having chills at home but has no documented fevers.  
She
has never felt like this before.  She denies any sick contacts. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Chronic back pain
Compression fractures
NSAIDs
Insomnia
Anxiety
Osteoporosis
 
Social History:
Marital status:     Single                                      
Children:           No                                          
Lives with:         Siblings                                    
Lives in:           Apartment                                   
Work: ___
Contraception:      N/A                                         
Tobacco use:        Never smoker                                
Alcohol use:        Present                                     
Alcohol use         rare wine                                   
comments:                                                       
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Patient already being treated for depression
Exercise:           Activities: walks                           
Diet:               coffee 1/day                                
Seat belt/vehicle   N/A                                         
restraint use:  
 
Family History:
Mother   ___ ___  DIABETES MELLITUS                         
                      MYOCARDIAL                                
                      INFARCTION                                

Father   ___ ___  ALZHEIMER'S DISEASE        late onset     
                      ARRHYTHMIA                                

Sister   Living   ___  HEADACHES   
 
Physical Exam:
ADMISSION EXAM:
VITALS: ___ 2230 Temp: 98.4 PO BP: 132/79 HR: 108 RR: 18 O2
sat: 97% O2 delivery: ra Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and in no apparent distress, laying in bed,
___
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, dry 
mucus
membranes
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VS: 98.5PO 158/79 83 18 95 RA  
GENERAL: Alert and in no apparent distress, laying in bed,
___
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, dry 
mucus
membranes
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS
--------------
___ 01:15PM BLOOD WBC-17.1* RBC-3.61* Hgb-11.1* Hct-33.6* 
MCV-93 MCH-30.7 MCHC-33.0 RDW-13.9 RDWSD-47.2* Plt ___
___ 01:15PM BLOOD Neuts-89.1* Lymphs-6.1* Monos-4.2* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-15.21* AbsLymp-1.04* 
AbsMono-0.72 AbsEos-0.00* AbsBaso-0.02
___ 01:15PM BLOOD Glucose-154* UreaN-46* Creat-1.1 Na-136 
K-4.3 Cl-94* HCO3-23 AnGap-19*
___ 01:15PM BLOOD ALT-10 AST-10 AlkPhos-90 TotBili-0.5
___ 06:45AM BLOOD Calcium-8.1* Phos-2.4* Mg-1.9

MICROBIOLOGY
------------
___ 2:39 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING
-------
EGD ___:
Ulcer in the antrum
Grade D esophagitis in distal esophagus
Esophageal hiatal hernia
Normal mucosa in stomach aside from ulcer
Normal duodenum

CXR ___:
IMPRESSION:    
COPD. 
  
Equivocal mild opacity overlying the anterior mid chest on the 
lateral view 
could be due to right middle lobe atelectasis or pneumonia. 

DISCHARGE LABS
--------------
___ 10:50AM BLOOD WBC-7.4 RBC-3.06* Hgb-9.1* Hct-28.8* 
MCV-94 MCH-29.7 MCHC-31.6* RDW-14.4 RDWSD-49.7* Plt ___
___ 10:50AM BLOOD Glucose-88 UreaN-10 Creat-0.9 Na-141 
K-3.7 Cl-102 HCO3-29 AnGap-10
___ 10:50AM BLOOD Calcium-8.6 Phos-2.6* Mg-1.___ female with the past medical history notable for 
chronic back pain with compression fracture on NSAIDs, insomnia, 
anxiety, and osteoporosis who presents for evaluation of 3 days 
of nausea and vomiting.

ACUTE/ACTIVE PROBLEMS:
# Peptic ulcer disease
# Acute blood loss anemia:  most recent  H&H was 13.3/40.6 in 
___.  Hemoglobin now 7.1 in hospital.  She had no bowel 
movement in the last several days but does report that she is 
having possible dark vomiting which would be concerning for 
hematemesis.  On EGD, found to have antral ulcer, and patient 
was started on pantoprazole BID.  She was given one unit PRBC 
transfusion.  CBC was stable at the time of discharge. Patient 
will follow up with her PCP within one week of discharge.  She 
will require a repeat EGD in ___ weeks to follow up findings of 
ulcer.  She was instructed to avoid NSAIDs going forward.  CBC 
should be checked upon PCP ___.  Stool Helicobacter 
antigen results will need to be followed up on PCP ___.

# Sepsis 
# Nausea and vomiting: Patient presents with a white count of 
17.1K and a heart rate greater than 100, likely related to 
peptic ulcer and blood loss, which also likely caused her nausea 
and vomiting.  Norovirus testing negative.  She was provided IV 
ondansetron for nausea.  She tolerated a regular diet at the 
time of discharge.  Stool softeners were given to help encourage 
bowel movement.  Hemodynamics stabilized soon after admission.

# Chronic lower back pain: patient was continued on her home 
lidocaine patch and acetaminophen.  Her home ibuprofen and 
piroxicam was held, and should be avoided going forward.

# Anxiety: Continued home buspirone and mirtazapine.  She was 
given PRN lorazepam during admission.  Patient has very notable 
anxiety and consideration of adding to her anxiolytic regimen 
should be considered as an outpatient.

# Insomnia: Continued home mirtazapine

TRANSITIONS OF CARE
-------------------
# ___: Patient will follow up with her PCP within one week 
of discharge.  She will require a repeat EGD in ___ weeks to 
follow up findings of ulcer.  She was instructed to avoid NSAIDs 
going forward.  CBC should be checked upon PCP ___.  
Patient has very notable anxiety and consideration of adding to 
her anxiolytic regimen should be considered as an outpatient.  
Stool Helicobacter antigen results will need to be followed up 
on PCP ___.

# Code Status/Advance Care Planning: Presumed full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 15 mg PO QHS 
2. Lidocaine 5% Patch 3 PTCH TD QAM 
3. Ibuprofen 400 mg PO DAILY:PRN Pain - Moderate 
4. Vitamin D 1000 UNIT PO DAILY 
5. BusPIRone 5 mg PO DAILY 
6. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
7. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
8. piroxicam 20 mg oral DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
2.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*30 Tablet Refills:*0 
3.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
4.  BusPIRone 5 mg PO DAILY  
5.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
6.  Lidocaine 5% Patch 3 PTCH TD QAM  
7.  Mirtazapine 15 mg PO QHS  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peptic ulcer
Nausea with vomiting

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with nausea and 
vomiting and were found to have an ulcer in your stomach.  You 
are being treated with medications to help this heal.  You were 
also anemic and received a transfusion, likely from slow blood 
loss.  You are now being discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___